US07666871B2
3-Methoxy-5-{4-[5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyridine
The title compound is prepared in a manner substantially analogous to Example 35 starting from 3-Methoxypyridine-5-boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 364.2 (M+1)

reactant | 3-Methoxypyridine-5-boronic acid | COC=1C=NC=C(C1)B(O)O | C6H8BNO3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 3-Methoxy-5-{4-[5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyridine | COC=1C=NC=C(C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C22H25N3O2
